### PR TITLE
refactor: ZKBuilder as Free Monad

### PR DESCRIPTION
**Pull request by tannerduve**
### Refactor: Make `ZKBuilder` a Free Monad

This PR refactors `ZKBuilder` from a `StateM`-based monad into a free monad (`FreeM`) over a primitive instruction set (`ZKOp f`).

#### Changes:

* Defines a `FreeM` monad in `ZkLean/FreeMonad.lean`, with `Monad` and `LawfulMonad` instances
* Defines an effect functor `ZKOp` describing the monad's primitive operations
* Replaces the `StateM`-based `ZKBuilder` with `FreeM (ZKOp f)`
* Introduces `ZKOp` as the effect signature for circuit-building operations (`AllocWitness`, `ConstrainEq`, `RamRead`, etc.)
* Implements an interpreter `ZKOpInterp` from `ZKOp` into `ZKBuilderState f`
* Wrote a function `foldRun` which has the same behavior as the `run` function of the state monad but is implemented by folding over the `FreeM` tree.
* Wrote a `MPL.WP` instance for the free ZKBuilder monad to allow for MPL proofs
* Preserves compatibility with existing `eval_exprf`, `semantics`, and `Witnessable` interface

### CODE REVIEW

File: src/lake-manifest.json [hunk 1]
```diff
@@ -0,0 +1,105 @@
+{"version": "1.1.0",
```
Comment (jprider63) [inline src/lake-manifest.json:1]: Is it standard practice in Lean to include `lake-manifest.json` files in libraries?

File: src/Main.lean [hunk 2]
```diff
@@ -402,14 +342,23 @@ theorem constrainEq3Trivial [ZKField f] (a b c:ZKExpr f) :
...
   unfold constrainEq3
-  mspec (constrainEq2Trivial a b)
-  mintro ∀s2
-  mpure h
-  rename' h => hAB
-  mspec (constrainEq2Trivial b c)
-  mintro ∀s3
-  mpure h
-  simp [h, hAB]
+  unfold constrainEq2
```
Comment (jprider63) [inline src/Main.lean:345]: Do you mind reverting this? Feel free to comment out the old proof  and leave a `sorry`. Our goal was to demonstrate a composable proof that used `constrainEq2Trivial` as a lemma.

File: src/Main.lean [hunk 3]
```diff
@@ -419,76 +368,129 @@ theorem constrainEq2Sound' [ZKField f] (a b:ZKExpr f) (witness: List f) :
...
-
-  have hP1: eval_exprf a s1 witness = eval_exprf b s1 witness := by
-    simp at hAB
-    grind
-  have hP2: eval_exprf a s2 witness = eval_exprf b s2 witness := by
-    rw [hA] at hP1
-    rw [hB] at hP1
-    exact hP1
-  exact hP2
+-- theorem constrainEq3Transitive [ZKField f] (a b c:ZKExpr f) (witness: List f) :
```
Comment (jprider63) [inline src/Main.lean]: Can you uncomment the theorem statement? Feel free to leave a `sorry`.

**Review by jprider63 — COMMENTED** [review]
This looks great, thanks @tannerduve! I left a few minor requests and questions.

File: src/Main.lean (hunk 2 above)
Comment (tannerduve) [reply src/Main.lean:345]: The new implementation breaks the old proof but I can't figure out why, which is why I changed the proof.
Screenshot 2025-07-14 at 4 38 42 PM
Screenshot 2025-07-14 at 4 38 54 PM
the error message "no goals to be solved" doesn't really make sense since the goal isn't closed. im not that familiar with the MPL stuff

File: src/lake-manifest.json (hunk 1 above)
Comment (tannerduve) [reply src/lake-manifest.json:1]: Yes, most projects I've seen keep this here

Comment (jprider63) [reply src/lake-manifest.json:1]: Good to know. In Rust, I believe the convention is to include `Cargo.lock` files for binaries but not libraries.
